US09212154B2
L-Cysteine hydrochloride monohydrate (100 g, 569 mmol) was dissolved in water (200 ml), and the pH of the solution was adjusted to 5.07 with 6N aqueous sodium hydroxide. The reaction mixture was heated to 40° C., ethyl pyruvate (76 ml, 684 mmol) was gradually added thereto, and the mixture was stirred at 40° C. for 3.5 hours to give 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester (the ratio of trans form:cis form of the resultant product in the reaction mixture was confirmed by the area ratio of an HPLC chart to find about 55:45). After completion of the reaction, the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. To the obtained ethyl acetate solution was added triethylamine (159 ml, 1141 mmol) under argon, and acetyl chloride (61 ml, 858 mmol) was slowly added dropwise thereto. The reaction mixture was heated under reflux for 4 hr to give N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester (the ratio of trans form:cis form of the resultant product in the reaction mixture was confirmed by the area ratio of an HPLC chart to find about 95:5). After completion of the reaction, water (100 ml) was added thereto, and the pH of the mixture was adjusted to 2.5 with HCl. The aqueous layer was separated, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The obtained ethyl acetate solution was concentrated until a weight of 900 g, to the residue was added heptane to allow recrystallization of the residue, and the crystals were washed with heptane/ethyl acetate=2/1, and dried at 50° C. under reduced pressure to give a crystal of a trans form of N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester (the ratio of trans form:cis form of the resultant product in the reaction mixture was confirmed by the area ratio of an HPLC chart to find about 99%) (84 g, yield 57%). The melting point of the obtained crystal was measured using digital melting point measuring apparatus IA9100 manufactured by Electrothermal to be 138° C. to 141° C.

reactant | L-Cysteine hydrochloride monohydrate | 569 mmol, 100 g | O.Cl.N[C@@H](CS)C(=O)O
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | ethyl pyruvate | 684 mmol, 76 ml | C(C(=O)C)(=O)OCC | C5H8O3
solvent | water | 200 ml | O | H2O
product | 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester | CCOC(=O)C1(SCC(N1)C(=O)O)C | C8H13NO4S
